US06770667B1
To a suspension of 2,2′-bithiophene (1.0 g) in tetrahydrofuran (10 ml) was added a solution of n-butyl lithium in n-hexane (1.54 M, 4.3 ml) at −25° C. under nitrogen atmosphere. The mixture was stirred at −60° C. for 30 minutes. To the solution dry-ice (1.0 g) was added and the mixture was stirred at ambient temperature for 30 minutes. To the resultant suspension hydrochloric acid (1N, 10 ml) and ethyl acetate were added. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated with diisopropyl ether. The resulting precipitate was collected by filtration, washed with diisopropyl ether and dried to give [2,2′]bithiophenyl-5-carboxylic acid (952 mg, 75.6%).

reactant | 2,2′-bithiophene | 1.0 g | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | dry-ice | 1.0 g | C(=O)=O | CO2
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 1.54 M, 4.3 ml | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [2,2′]bithiophenyl-5-carboxylic acid | 952 mg, 75.6% | S1C(=CC=C1C(=O)O)C=1SC=CC1 | C9H6O2S2
